US03980645
To a solution of 1.5 g of 9-chloro-2,3,6,10b-tetrahydro-10b-phenyl-5H-oxazolo[3,2-C]quinazolin-5-one in 20 ml of dimethylformamide was added 0.21 g of 62.5% sodium hydride. The resultant mixture was stirred with heating at 50° - 55°C for 1 hour, and 1.42 g of methyl iodide was added thereto at room temperature. Then, the mixture was heated at 55° - 60°C for 3 hours. After cooling, the reaction mixture was poured into 100 ml of water and acidified with hydrochloric acid. The resulting mixture was extracted with 50 ml of chloroform and the chloroform layer was washed successively with dilute hydrochloric acid and water, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was chromatographed on silica gel using chloroform as an eluent to give 1.2 g of 9-chloro-2,3,6,10b-tetrahydro-6-methyl-10b-phenyl-5H-oxazolo[3,2-C]quinazolin-5-one, having a melting point of 124° - 125°C. Recrystallization from ethanol gave colorless prisms, having a melting point of 136° - 137°C.

reactant | 9-chloro-2,3,6,10b-tetrahydro-10b-phenyl-5H-oxazolo[3,2-C]quinazolin-5-one | 1.5 g | ClC1=CC=2C3(N(C(NC2C=C1)=O)CCO3)C3=CC=CC=C3 | C16H13ClN2O2
reactant | sodium hydride | 0.21 g | [H-].[Na+]
reactant | methyl iodide | 1.42 g | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 9-chloro-2,3,6,10b-tetrahydro-6-methyl-10b-phenyl-5H-oxazolo[3,2-C]quinazolin-5-one | 1.2 g | ClC1=CC=2C3(N(C(N(C2C=C1)C)=O)CCO3)C3=CC=CC=C3 | C17H15ClN2O2
